US06235742B1
5-[α-hydroxybenzyl]-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one
(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)(phenyl)methyl acetate (1.311 g, 0.004 mol) was added to a solution of potassium hydroxide (232 mg, 0.0041 mol) in ethanol (60 ml). The resulting mixture was refluxed for 1 hour to give a colourless solution. On cooling, this was concentrated under reduced pressure, and the resulting residue partitioned between water and dichloromethane. The aqueous phase was acidified to pH3 with 1M aqueous hydrochloric acid solution and was extracted with dichloromethane/methanol (100 ml). The organic extracts were combined, dried (MgSO4), filtered and concentrated under reduced pressure.

reactant | (1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)(phenyl)methyl acetate | 0.004 mol, 1.311 g | C(C)(=O)OC(C1=CC=CC=C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O | C18H20N4O3
reactant | potassium hydroxide | 0.0041 mol, 232 mg | [OH-].[K+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 5-[α-hydroxybenzyl]-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one | OC(C1=CC=CC=C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O | C16H18N4O2
